US05644017
4-Chlorosulfonylbenzoic acid is prepared by procedures described in (J. Chem. Soc., Vol. 121, 2022-26, 1922). A 250 mL flask equipped with condenser, CaCl2 drying tube and magnetic stirrer is charged with 35.1 g (0.146 mol) of potassium 4-sulfobenzoic acid and 50 mL of chlorosulfonic acid. The flask is placed in an oil bath and warmed to 100° C. After 1 hour at temperature, the reaction mixture is homogeneous. The reaction mixture is cooled and poured onto 300 g of crushed ice. The white precipitate is collected by filtration and washed 3 times with 100 mL portions of cold water. After air drying the solid is placed in a vacuum oven at 65° C. to yield 26.7 g of 4-chlorosulfonyl benzoic acid.

reactant | potassium 4-sulfobenzoic acid | 0.146 mol, 35.1 g | S(=O)(=O)(O)C1=CC=C(C(=O)O)C=C1.[K]
reactant | chlorosulfonic acid | 50 mL | ClS(=O)(=O)O | ClHO3S
product | 4-chlorosulfonyl benzoic acid | 26.7 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
